US08222248B2
To a mixture of 2-(2,6-dimethylphenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (130 mg), EDCI (85 mg) and HOBt (60 mg) in DMF (3 mL) was added 3,4-dimethylaniline (53 mg) and the mixture was stirred at room temperature for 24 h. The mixture was poured into water and was extracted with EtOAc. The organic phase was washed with water (3×) and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by flash chromatography using CH2Cl2 as eluent to give 2-(2,6-dimethylphenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (3,4-dimethylphenyl)-amide as a pale-yellow solid, mp=223-225° C.; MS (m/z) 397 (M−1); 1H NMR (CDCl3, 400 MHz) δ 8.38 (s, 1H), 8.09 (d, J=8.34 Hz, 1H), 7.81 (s, 1H), 7.45 (s, 1H), 7.37-7.15 (m, 5H), 2.30 (s, 3H), 2.27 (s, 3H), 1.54 (s, 6H).

reactant | 2-(2,6-dimethylphenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | 130 mg | CC1=C(C(=CC=C1)C)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C17H13NO4
reactant | EDCI | 85 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4-dimethylaniline | 53 mg | CC=1C=C(N)C=CC1C | C8H11N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2,6-dimethylphenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=C(C=CC=C1C)C)=O | C25H22N2O3
